US05654307
2,6-Difluoropyridine (7.89 mL, 0.087 mmol) is added dropwise under N2 at 78° C. to a stirred solution of lithium diisopropylamide (59.0 mL of a 1.5N solution in cyclohexane, 0.089 mmol) in THF (250 mL). After 2 h at 78° C., a stream of dry CO2 is passed through the solution and the mixture is diluted with water and washed with EtOAc. The aqueous portion is neutralized with 3N HCl, extracted with EtOAc and worked up to give 2,6-difluoronicotinic acid (13.4 g, 97%). 1H NMR (DMSO) δ 8.59 (1H, dd, J=9.2, 8.2 Hz), 7.30 (1H, dd, J=8.2, 2.1 Hz), 4.03 (1H, brs).

reactant | 2,6-Difluoropyridine | 0.087 mmol, 7.89 mL | FC1=NC(=CC=C1)F | C5H3F2N
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | CO2 | C(=O)=O | CO2
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,6-difluoronicotinic acid | 13.4 g, 97% | FC1=C(C(=O)O)C=CC(=N1)F | C6H3F2NO2
